US06602825B1
3-(2,4-difluorophenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione
31 g of 2,4-difluorophenyl isocyanate and 64.9 g of carbodiimidazole were added in succession to 20.8 g of N,N′-dimethylthiourea in 500 ml of toluene and 1 ml of triethylamine. This mixture was stirred first for 3 hours at 60-65° C. and then for 12 hours at 80-85° C. After cooling to room temperature, the mixture was washed three times with 100-ml-portions of water, and the organic phase was dried over sodium sulfate. After distillation of the low-boiling fractions, 48 g of the desired product of melting point 156-159° C. remained.

reactant | 2,4-difluorophenyl isocyanate | 31 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | carbodiimidazole | 64.9 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,N′-dimethylthiourea | 20.8 g | CNC(=S)NC | C3H8N2S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 3-(2,4-difluorophenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione | FC1=C(C=CC(=C1)F)N1C(N(C(N(C1=O)C)=S)C)=O | C11H9F2N3O2S
